US08729105B2
Preparation of (S)-4-(4-chlorophenyl)-N-((3-(trifluoromethyl)isoxazol-5-yl)methyl)-5-(1,1,1-trifluoropropan-2-yloxy)pyrimidine-2-carboxamide
The title compound was synthesized in analogy to Example 1 using (S)-4-(4-chlorophenyl)-5-(1,1,1-trifluoropropan-2-yloxy)pyrimidine-2-carboxylic acid (example AQ) and 3-trifluoromethyl-isoxazol-5-methanamine (example BA) as starting materials; LC-MS (UV peak area/ESI) 100%, 495.0965 (M+H)+.

reactant | (S)-4-(4-chlorophenyl)-5-(1,1,1-trifluoropropan-2-yloxy)pyrimidine-2-carboxylic acid | ClC1=CC=C(C=C1)C1=NC(=NC=C1O[C@H](C(F)(F)F)C)C(=O)O | C14H10ClF3N2O3
reactant | 3-trifluoromethyl-isoxazol-5-methanamine | FC(C1=NOC(=C1)CN)(F)F | C5H5F3N2O
product | (S)-4-(4-chlorophenyl)-N-((3-(trifluoromethyl)isoxazol-5-yl)methyl)-5-(1,1,1-trifluoropropan-2-yloxy)pyrimidine-2-carboxamide | ClC1=CC=C(C=C1)C1=NC(=NC=C1O[C@H](C(F)(F)F)C)C(=O)NCC1=CC(=NO1)C(F)(F)F | C19H13ClF6N4O3
